US09447106B2
A mixture of 5-amino-1-(2-bromo-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (149 mg, 0.3 mmol, crude), CuI (5.7 mg, 0.03 mmol), N1,N2-dimethylethane-1,2-diamine (3 mg, 0.03 mmol), K3PO4 (64 mg, 0.3 mol) in 15 mL of DMF was stirred at 60° C. under N2 for 5 hr, until TLC analysis showed that most of starting material was consumed. The reaction was cooled to RT. The solvent was removed under reduced pressure. The residue was chromatographed on 5 g of silica gel using DCM/MeOH (200/1 to 20/1) to afford 62 mg (52%) of 7-nitro-2-(4-phenoxyphenyl)-4H-benzo[4,5]imidazo[1,2-b]pyrazole-3-carboxamide as a tan solid. MS (ESI) m/e [M+1]+ 414.

reactant | 5-amino-1-(2-bromo-5-nitrophenyl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 0.3 mmol, 149 mg | NC1=C(C(=NN1C1=C(C=CC(=C1)[N+](=O)[O-])Br)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C22H16BrN5O4
reactant | N1,N2-dimethylethane-1,2-diamine | 0.03 mmol, 3 mg | CNCCNC | C4H12N2
reactant | K3PO4 | 0.3 mol, 64 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.03 mmol, 5.7 mg | [Cu]I
product | 7-nitro-2-(4-phenoxyphenyl)-4H-benzo[4,5]imidazo[1,2-b]pyrazole-3-carboxamide | 62 mg, 52% | [N+](=O)([O-])C1=CC2=C(NC=3N2N=C(C3C(=O)N)C3=CC=C(C=C3)OC3=CC=CC=C3)C=C1 | C22H15N5O4
